US08067447B2
To a stirred suspension of the 1-(4-fluorophenyl)-1H-indazole-5-carboxylic acid (0.22 g, 0.81 mmol) in methanol (5 mL), THF (5 mL), and dichloromethane (5 mL) was added (trimethylsilyl)diazomethane solution (2M in diethyl ether, 1 mL, 2 mmol) dropwise at rt. The reaction mixture was stirred at rt for 1 hr and carefully quenched by the slow addition of acetic acid. Concentration under reduced pressure and titration with methanol gave methyl 1-(4-fluorophenyl)-1H-indazole-5-carboxylate (0.16 g, 0.59 mmol, 73% yield) as a white solid.

reactant | 1-(4-fluorophenyl)-1H-indazole-5-carboxylic acid | 0.81 mmol, 0.22 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(=O)O | C14H9FN2O2
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | (trimethylsilyl)diazomethane | 2 mmol, 2M, 1 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 5 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 1-(4-fluorophenyl)-1H-indazole-5-carboxylate | 0.59 mmol, 0.16 g, 73% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(=O)OC | C15H11FN2O2
